US05283335
Preparation of Dimethyl 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylate
A mixture of 3-butynyl-2-propynyl ether (37.2 g, 0.344 mol), dimethylacetylenedicarboxylate (48.9 g, 0.344 mol) and toluene is divided into 2 portions and transferred to 2 addition funnels connected to the reaction vessel. The apparatus is fitted with a condenser and evacuated 4 times with a Firestone valve and nitrogen. The cobalt catalyst is added in equal amounts to each addition funnel. The reaction vessel which contains approximately 2L toluene is heated to 105° C. under a nitrogen atmosphere with stirring. The contents of the addition funnels are added dropwise at equivalent rates, at 105° C., over a 4 hour period. The reaction mixture is stirred overnight at 100° C. under a heat lamp (Visible light), cooled to room temperature and filtered through diatomaceous earth. The filtrate is concentrated in vacuo to a brown oil, which is flash chromatographed (silica gel, 95% hexane:ether acetate eluent) to afford the title product as a pale orange solid (16.5 g, 19.2%) identified by NMR analysis.

reactant | 3-butynyl-2-propynyl ether | 0.344 mol, 37.2 g | C(#CCC)C#CCOCC#CC#CCC | C14H14O
reactant | dimethylacetylenedicarboxylate | 0.344 mol, 48.9 g | COC(=O)C#CC(=O)OC | C6H6O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Dimethyl 3,4-dihydro-1H-2-benzopyran-6,7-dicarboxylate | 16.5 g, 19.2% | C1OCCC2=C1C=C(C(=C2)C(=O)OC)C(=O)OC | C13H14O5
